US07494964B2
38.5 g (0.114 mol) of 1,5-bis(4-chloropyridin-2-yl)pentane-1,3,5-trione are suspended in 1.25 l of 2-propanol. A total of 230 ml of 25% (w/w) ammonia solution is added at 60° C.-70° C. over the course of five and a half hours. The mixture is cooled to 4° C. and the whitish 4,4″-dichloro-1′H-[2,2′;6′,2″]terpyridin-4′-one formed is filtered off. 1H-NMR (360 MHz, DMSO-d6): 8.65 (d, 2H, J=5.4 Hz); 8.57 (d, 2H, J=2.2 Hz); 7.82 (s, 2H); 7.59 (dd, 2H, J=5.4,2.2 Hz).

reactant | 1,5-bis(4-chloropyridin-2-yl)pentane-1,3,5-trione | 0.114 mol, 38.5 g | ClC1=CC(=NC=C1)C(CC(CC(=O)C1=NC=CC(=C1)Cl)=O)=O | C15H10Cl2N2O3
reactant | ammonia | N | H3N
solvent | 2-propanol | 1.25 l | CC(C)O | C3H8O
product | 4,4″-dichloro-1′H-[2,2′;6′,2″]terpyridin-4′-one | ClC1=CC(=NC=C1)C=1NC(=CC(C1)=O)C1=NC=CC(=C1)Cl | C15H9Cl2N3O
